US07781436B2
2-{6-Chloro-3-[4-(2-methoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide hydrochloride
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2-methoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester gave, after treatment with HCl, the title compound.

reactant | {6-chloro-3-[4-(2-methoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C22H22ClN3O4
reactant | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | HCl | Cl | ClH
product | 2-{6-Chloro-3-[4-(2-methoxy-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide hydrochloride | Cl.ClC1=CC=C2C(=CN(C2=C1)CC(=O)NCCNC)C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | InChI=1S/C25H30ClN5O3.ClH/c1-27-9-10-28-24(32)17-31-16-20(19-8-7-18(26)15-22(19)31)25(33)30-13-11-29(12-14-30)21-5-3-4-6-23(21)34-2;/h3-8,15-16,27H,9-14,17H2,1-2H3,(H,28,32);1H
